US04859684
A mixture of 4.5 parts of 5-(1H-imidazol-1-ylmethyl)-1-methyl-1H-benzimidazol-2-ol, 0.46 parts of a sodium hydride dispersion 50% and 56 parts of N,N-dimethylformamide was stirred for 30 minutes at 50° C. After the addition of 2.53 parts of (chloromethyl)benzene, the solution was stirred for 2 hours at 50° C. The N,N-dimethylformamide layer was evaporated in vacuo. The residue was diluted with water and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was crystallized from a mixture of 27 parts of ethyl acetate and 44 parts of 2,2'-oxybispropane. The product was filtered off and dried, yielding 5 parts (78.5%) of 1,3-dihydro-5-(1H-imidazol-1-ylmethyl)-1-methyl-3-(phenylmethyl)-2H-benzimidazol-2-one; mp. 129.4° C. (compound 226).

reactant | 5-(1H-imidazol-1-ylmethyl)-1-methyl-1H-benzimidazol-2-ol | N1(C=NC=C1)CC1=CC2=C(N(C(=N2)O)C)C=C1 | C12H12N4O
reactant | sodium hydride | [H-].[Na+]
reactant | (chloromethyl)benzene | ClCC1=CC=CC=C1 | C7H7Cl
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1,3-dihydro-5-(1H-imidazol-1-ylmethyl)-1-methyl-3-(phenylmethyl)-2H-benzimidazol-2-one | 78.5% | N1(C=NC=C1)CC1=CC2=C(N(C(N2CC2=CC=CC=C2)=O)C)C=C1 | C19H18N4O
